US09062056B2
(R)-3-(3-Amino-6-methyl-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester
To a solution of (R)-3-(6-methyl-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester (398 mg, 1.21 mmol) in MeOH (10 mL) was added slurry of Pd/C (150 mg) in MeOH (2 mL). The reaction mixture was degassed using house vacuum. The flask was saturated with H2 and stirred under H2 balloon for 2 hours. When the reaction was completed, the mixture was filtered through a pad of celite and the filtrate was concentrated to afford 390 mg (100%) of the oily residue. The resulting residue was used for the next reaction without further purification. LCMS, M++1, m/z: 300.15.

reactant | (R)-3-(6-methyl-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 1.21 mmol, 398 mg | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])C)=O | C17H19N3O4
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (R)-3-(3-Amino-6-methyl-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 390 mg, 100% | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1N)C)=O | C17H21N3O2
